US05811459
2-(2-Hydroxyphenyl)propionic acid was benzylated with two equivalents of benzyl bromide using the process described in Example 85, footnote a to give benzyl 2-(2-benzyloxyphenyl)propionate.

reactant | 2-(2-Hydroxyphenyl)propionic acid | OC1=C(C=CC=C1)C(C(=O)O)C | C9H10O3
reactant | benzyl bromide | two equivalents | C(C1=CC=CC=C1)Br | C7H7Br
product | benzyl 2-(2-benzyloxyphenyl)propionate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C(=O)OCC1=CC=CC=C1)C | C23H22O3
